US08222248B2
To a solution of 2,6-dichloro-4-hydroxybenzaldehyde (250 mg, 1.31 mmol) and 2-chloro-N,N-dimethylacetamide (238 mg, 1.97 mmol) in DMF (10 mL) was added CsCO3 (854 mg, 2.62 mmol) and the suspension was stirred at ambient temperature overnight. The reaction mixture was partioned between water and EtOAc and the aqueous layer was extracted with EtOAc. The combined organic layers were dried with MgSO4, filtered and concentrated. The material was purified by flash chromatography using heptane/EtOAc (1:3) as eluent to give 2-(3,5-dichloro-4-formylphenoxy)-N,N-dimethyl-acetamide as a yellow solid.

reactant | 2,6-dichloro-4-hydroxybenzaldehyde | 1.31 mmol, 250 mg | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
reactant | 2-chloro-N,N-dimethylacetamide | 1.97 mmol, 238 mg | ClCC(=O)N(C)C | C4H8ClNO
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3,5-dichloro-4-formylphenoxy)-N,N-dimethyl-acetamide | ClC=1C=C(OCC(=O)N(C)C)C=C(C1C=O)Cl | C11H11Cl2NO3
